data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_322048_0,[C:1]1([H:13])([H:14])[C:3]([C:2]([H:17])([H:18])[H:19])(/[C:6](=[N:4]/[H:10])[H:15])[C:7]1([C:5]([O:8][H:9])([H:11])[H:12])[H:16]>>[C:1](/[C:3]([C:2]([H:17])([H:18])[H:19])=[C:6](/[N:4]([H:10])[H:11])[H:15])(/[C:7](=[C:5](\[O:8][H:9])[H:12])[H:16])([H:13])[H:14],52.99990500001911
MR_285296_0,[C:1](/[C:5](=[C:3](/[N:2]([O:6][H:7])[H:8])[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:3]1([N:4]([H:9])[H:10])[N:2]([H:8])[O:6]1)([H:7])[H:11])([H:12])([H:13])[H:14],48.2014125000066
MR_605541_1,[C:1]([C:2]([H:12])([H:13])[H:14])([O:5][H:7])(/[N:6]=[C:4](/[N:3]([H:9])[H:10])[H:11])[H:8]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:6]/[C:4]([N:3]([H:9])[H:10])([O:5][H:7])[H:11])[H:8],50.41523250001731
MR_157276_2,[C:1]([C:3]([C:5]([C:2]([N:4]([H:10])[H:11])([H:12])[H:13])([O:7][H:8])[H:16])([H:14])[H:15])(=[O:6])[H:9]>>[C:1]([C:3]([C:5]([C:2]([N:4]([H:10])[H:11])([H:12])[H:13])=[O:7])([H:14])[H:15])([O:6][H:8])([H:9])[H:16],56.345734999953976
MR_494953_1,[N:1]([N:2](/[C:3]([N:4]([H:12])[H:13])=[N:7]/[O:6][H:9])[H:11])([O:5][H:8])[H:10]>>[N:1]1([O:5][H:8])[N:2]([H:11])[C@@:3]1([N:4]([H:12])[H:13])[N:7]([O:6][H:9])[H:10],62.41428750004147
MR_547735_0,[C:1]1([C:4]([H:12])([H:13])[H:17])([C:5]([H:14])([H:15])[H:16])[C:2]([C:3]([O:7][H:8])([H:10])[H:11])([H:9])[O:6]1>>[C:1]([C:2](=[O:6])[H:9])([C:3]([O:7][H:8])([H:10])[H:11])([C:4]([H:12])([H:13])[H:17])[C:5]([H:14])([H:15])[H:16],48.46496250001891
MR_400301_0,[C:1]([O:6][C:2]([H:12])([H:13])[H:14])(/[N:7]=[C:5](\[C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])[H:11])([H:9])[H:10]>>[C:1](=[N:7][C:5]1([H:11])[C:4]([C:3]([H:15])([H:16])[H:17])([O:6][C:2]([H:12])([H:13])[H:14])[O:8]1)([H:9])[H:10],48.09410999999216
MR_204277_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:5]([O:7][O:8][H:10])=[O:9])[N:6]([C:4]([H:18])([H:19])[H:20])[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:5]([N:6]([C:4]([H:18])([H:19])[H:20])[H:11])=[O:9])[O:7][O:8][H:10],67.10547750000387
MR_182998_1,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([O:6][C:3]([O:7][H:9])=[O:8])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@:4]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([O:7][H:9])=[O:8])([H:15])[H:16])[O:6]1,68.69556249998425
MR_155168_0,[C:1](/[N:7]=[C:3](/[C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])[O:6][H:8])([H:9])([H:10])[H:11]>>[C:1]([N:7]1[C:3]([O:6][H:8])=[C:4]([C:2]([H:12])([H:13])[H:14])[C:5]1([H:15])[H:16])([H:9])([H:10])[H:11],50.47358999997698
MR_255369_1,[C:1]([N:3]1[C:7]([C:2]([H:17])([H:18])[H:19])([H:13])[C:6]([C:4]([N:5]([H:10])[H:11])=[O:9])([H:12])[O:8]1)([H:14])([H:15])[H:16]>>[C:1]([N:3]([O:8][C:6]([C:4]([N:5]([H:10])[H:11])=[O:9])([C:7](=[C:2]([H:17])[H:19])[H:13])[H:12])[H:18])([H:14])([H:15])[H:16],64.264157500008
MR_671857_0,[C:1]12([H:6])[C:3]([H:9])([H:10])[N:4]1[C:2]([H:7])([H:8])[O:5]2>>[C:1]1([N:4]=[C:3]([H:9])[H:10])([H:6])[C:2]([H:7])([H:8])[O:5]1,63.76654999998024
MR_103718_1,[C:1](/[C:5](=[C:4](\[N:3]([H:8])[H:9])[H:12])[H:13])(/[C:6](=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:5](/[C:4](=[N:3]/[H:8])[H:12])([H:13])[C:6]1([C:7]([C:2]([H:16])([H:17])[H:18])([H:9])[H:15])[H:14],37.35382000000016
MR_272912_0,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([C:4]([C:5](=[O:8])[H:11])=[O:7])([O:6][H:9])[H:10]>>[C:1](=[C:4](\[C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])[O:7][C:5](=[O:8])[H:11])(\[O:6][H:9])[H:10],68.29019750000896
MR_205636_0,[C:1](/[C:3](=[C:2](\[N:4]([H:8])[H:9])[O:6][H:7])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:3]([C@@:2]([N:4]([H:8])[H:9])([O:6][H:7])[H:11])=[N:5]\[H:10])([H:12])([H:13])[H:14],68.21050499999615
MR_67681_2,[C:1](=[C:4]([N:5]1[N:2]([H:7])[C:3]1([N:6]([H:8])[H:13])[H:9])[H:10])([H:11])[H:12]>>[C:1](/[C:4](=[N:5]\[N:2](/[C:3](=[N:6]/[H:8])[H:9])[H:7])[H:10])([H:11])([H:12])[H:13],20.8511975000036
MR_172245_1,[C@@:1]([C:2]([O:5][C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([N:4]([H:9])[H:10])([O:6][H:7])[H:8]>>[C@:1]([C:2]([O:6][H:7])([H:11])[H:12])([N:4]([H:9])[H:10])([O:5][C:3]([H:13])([H:14])[H:15])[H:8],70.71171999995897
MR_379928_0,[C@@:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])=[O:7])([C:5](=[O:9])[H:12])([O:6][H:10])[H:11]>>[C@:1]([C:3]([C:5](=[O:9])[H:12])=[O:7])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([O:6][H:10])[H:11],47.3241675000456
MR_464744_1,[C:1]1([H:10])([H:11])[C:7](=[C:4]([H:18])[H:19])[C:6]([C:3]([H:15])([H:16])[H:17])=[N:9][C:5]([C:2]([H:12])([H:13])[H:14])([H:20])[O:8]1>>[C:1]1([H:10])([H:11])[C:7]([C:4]([H:18])([H:19])[H:20])=[C:6]([C:3]([H:15])([H:16])[H:17])[N:9]=[C:5]([C:2]([H:12])([H:13])[H:14])[O:8]1,58.29474999999121
MR_541924_0,[C:1]1([H:6])([H:7])[N:2]([O:4][H:5])[O:3]1>>[C:1]([N:2]([O:4][H:5])[H:7])(=[O:3])[H:6],30.288170000004584
